US06518257B1
(v) Production of 1-[6-[(diphenylmethylene)amino]-4′-fluoro[1,1′-biphenyl]-3-yl]-2-methyl-1-(1-trityl-1H-imidazol-4-yl)-1-propanol
To a solution of 4′-fluoro-5-[1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl][1,1′-biphenyl]-2-yl trifluoromethanesulfonate (1.06 g), benzophenone imine (0.035 ml) and cecium carbonate (1.23 g) in toluene (15 ml) were added (RS)-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (56.4 mg) and tri(dibenzylideneacetone)dipalladium(0) (27.7 mg), and the mixture was stirred at 80-90° C. for 26 h. (RS)-2,2′-Bis(diphenylphosphino)-1,1′-binaphthyl (112 mg) and tri(dibenzylideneacetone)palladium(0) (55.4 mg) were further added, and the mixture was stirred at 80-90° C. for 16.5 h, and at 105° C. for 3.5 h. The reaction mixture was filtered through Celite, and the filtrate was washed with water and saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel chomatography (eluent; hexane:ethyl acetate=5:1→1:1) to give the yellow amorphous title compound (115 mg).

reactant | 4′-fluoro-5-[1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl][1,1′-biphenyl]-2-yl trifluoromethanesulfonate | 1.06 g | FC(S(=O)(=O)OC1=C(C=C(C=C1)C(C(C)C)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)O)C1=CC=C(C=C1)F)(F)F | C39H32F4N2O4S
reactant | benzophenone imine | 0.035 ml | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
reactant | carbonate | 1.23 g | C([O-])([O-])=O
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | 1-[6-[(diphenylmethylene)amino]-4′-fluoro[1,1′-biphenyl]-3-yl]-2-methyl-1-(1-trityl-1H-imidazol-4-yl)-1-propanol | 115 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)=NC1=CC=C(C=C1C1=CC=C(C=C1)F)C(C(C)C)(O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C51H42FN3O
